US05618839
Methyl 1,1-dimethyl-3-phenyl-1H-indene-5-carboxylate (LXVIIIa)
Methyl 1,1-dimethyl-3-(trifluoromethanesulfonyloxy)-1H-indene-5-carboxylate (580 mg, 1.86 mmol ), tris(dibenzylideneacetone)dipalladium (0) (Pd2 dba3, 17 mg, 0.02 mmol), triphenylarsine (46 mg, 0.15 mmol), lithium chloride (240 mg, 5.59 mmol) and phenyltributyltin (680 mg, 1.86 mmol) in 5 mL of 2-methyl pyrrolidinone were stirred at 55° C. for 1.5 days. The mixture was diluted with water (30 mL), and extracted with ethyl ether (30 mL×3). The combined extracts were dried over magnesium sulfate and evaporated. The residue was purified by flash chromatography (EtOAc:hexane=1:20 to 1:5) to give 0.43 g (83% yield) of the title compound as a white solid; 1H-NMR (CDCl3) δ1.41 (s, 6H), 3.91 (s, 3H), 6.48 (s, 1H), 7.39-7.62 (m, 6H), 7.99 (d, J=6.8 Hz, 1H), 8.14 (s, 1H); MS m/e 279 (MH+).

reactant | Methyl 1,1-dimethyl-3-(trifluoromethanesulfonyloxy)-1H-indene-5-carboxylate | 1.86 mmol, 580 mg | CC1(C=C(C2=CC(=CC=C12)C(=O)OC)OS(=O)(=O)C(F)(F)F)C | C14H13F3O5S
reactant | lithium chloride | 5.59 mmol, 240 mg | [Cl-].[Li+]
reactant | phenyltributyltin | 1.86 mmol, 680 mg | C1(=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | water | 30 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.02 mmol, 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | triphenylarsine | 0.15 mmol, 46 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
product | Methyl 1,1-dimethyl-3-phenyl-1H-indene-5-carboxylate | 0.43 g, 83% yield | CC1(C=C(C2=CC(=CC=C12)C(=O)OC)C1=CC=CC=C1)C | C19H18O2
